US04011230
As in Example 17, reaction of 2-chloro-5-(2-nitrovinyl)thiophene with dimethylammonium dimethyldithiocarbamate in the presence of carbon disulfide gave 5-chloro-α-(nitromethyl)-2-thenyl dimethyldithiocarbamate melting at 76° C.-77° C., after recrystallization without heating from acetone-methanol solution.

reactant | 2-chloro-5-(2-nitrovinyl)thiophene | ClC=1SC(=CC1)C=C[N+](=O)[O-] | C6H4ClNO2S
reactant | dimethylammonium dimethyldithiocarbamate | CN(C([S-])=S)C.C[NH2+]C
solvent | carbon disulfide | C(=S)=S | CS2
product | 5-chloro-α-(nitromethyl)-2-thenyl dimethyldithiocarbamate | CN(C(SC(C1=CC=C(S1)Cl)C[N+](=O)[O-])=S)C | C9H11ClN2O2S3
